US09212190B2
To a solution of benzyl N-[(1R)-2-[(3R)-12-[(4-[[(tert-butoxy)carbonyl](methyl)amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]-1-carbamoylethyl]carbamate (80 mg, 0.15 mmol, 1.00 equiv) in 20 mL of THF was added TBAF hydrate (134 mg, 0.51 mmol, 4.00 equiv) at room temperature. The resulting solution was stirred for 4 h at 70° C. under nitrogen. After cooling down to room temperature, the resulting solution was diluted with 50 mL of ethyl acetate and washed with H2O and brine. The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:10) to yield 60 mg (94%) of tert-butyl N-(4-[[(3R)-3-[[(4R)-2,5-dioxoimidazolidin-4-yl]methyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate as a white solid.

reactant | benzyl N-[(1R)-2-[(3R)-12-[(4-[[(tert-butoxy)carbonyl](methyl)amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]-1-carbamoylethyl]carbamate | 0.15 mmol, 80 mg, 1.00 equiv | C(C)(C)(C)OC(=O)N(C1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)C[C@H](C(N)=O)NC(OCC1=CC=CC=C1)=O)C | C32H41N5O6S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl N-(4-[[(3R)-3-[[(4R)-2,5-dioxoimidazolidin-4-yl]methyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 60 mg, 94% | O=C1NC([C@H](N1)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C)=O | C25H33N5O5S
